US06660744B1
2-Amino-6-methylphenol was prepared from 2-methyl-6-nitrophenol (0.500 g, 3.26 mmol) in a manner similar to that described for 2-amino-6-chlorophenol. The compound was formed as a black solid (0.030 g, 8%). RP-HPLC (25 to 100% CH3CN in 0.1 N aqueous ammonium acetate over 10 min at 1 mL/min using a Hypersil HS C18, 100 Å, 5 μm, 250×4.6 mm column) tr=5.78 min., 86%; m/z 123 (MH+).

reactant | 2-methyl-6-nitrophenol | 3.26 mmol, 0.500 g | CC1=C(C(=CC=C1)[N+](=O)[O-])O | C7H7NO3
reactant | 2-amino-6-chlorophenol | NC1=C(C(=CC=C1)Cl)O | C6H6ClNO
product | 2-Amino-6-methylphenol | NC1=C(C(=CC=C1)C)O | C7H9NO
